US04331678
A solution of 3-t-butyl-5-(methylthio)pyrazole (10 g), and triethylamine (6.0 g) were added dropwise at -20° to a stirred solution of phosgene (7.5 ml) in tetrahydrofuran (75 ml). The solution was allowed to come to room temperature, and was then stirred for 2 hours. Excess phosgene was removed by drawing dry air through the mixture for 1/2 hour. The reaction mixture was filtered, and evaporated to give a yellow oil which quickly crystallised. Recrystallisation from petrol gave 3-tert-butyl-1-chlorocarbonyl-5-(methylthio)pyrazole, 5.0 g (64% yield), melting point 64°-6°.

reactant | 3-t-butyl-5-(methylthio)pyrazole | 10 g | C(C)(C)(C)C1=NNC(=C1)SC | C8H14N2S
reactant | triethylamine | 6.0 g | C(C)N(CC)CC | C6H15N
reactant | phosgene | 7.5 ml | C(=O)(Cl)Cl | CCl2O
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | 3-tert-butyl-1-chlorocarbonyl-5-(methylthio)pyrazole | 64% yield | C(C)(C)(C)C1=NN(C(=C1)SC)C(=O)Cl | C9H13ClN2OS
